US06932984B1
A Process for Encapsulation of Vitamin A Palmitate
An aqueous phase was prepared by dissolving 0.5 g of poly(vinyl alcohol) in 50 ml water saturated by 6 ml of ethyl acetate. An organic phase was prepared by dissolving 0.075 g retinol palmitate, 0.1 g mineral oil, 0.01 g of an antioxidant (chosen from BHA, BHT, tocopherol or their mixture) and 0.815 g PMMA in 5 ml of ethyl acetate. The organic phase was poured into the aqueous phase while stirring and then 100 ml of fresh water were added. The microcapsules formed were filtered, washed by water and dried at the temperature no higher 20° C. An average diameter of the microcapsules was 40 μm.

reactant | retinol palmitate | 0.075 g | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/CO)/C)/C | C20H30O
reactant | PMMA | 0.815 g | CC(=C)C(=O)OC | C5H8O2
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | Vitamin A Palmitate | CCCCCCCCCCCCCCCC(=O)OC/C=C(\C)/C=C/C=C(\C)/C=C/C1=C(CCCC1(C)C)C | C36H60O2
